US04200641
A mixture of 4 parts of 4,5-dichloro-N1 -{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,2-benzenediamine and 1.5 parts of urea is stirred for 3 hours in an oil-bath at 190° C. After cooling, water and trichloromethane are added. The layers are separated and the organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of methylbenzene and 2,2'-oxybispropane, yielding 5,6-dichloro-1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 214.3° C.

reactant | 4,5-dichloro-N1 -{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,2-benzenediamine | ClC=1C=C(C(=CC1Cl)NCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)N | C26H30Cl2N4
reactant | urea | NC(=O)N | CH4N2O
reactant | water | O | H2O
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 5,6-dichloro-1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)CCCN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1Cl | C27H28Cl2N4O
